US07144899B2
Step B: 4-[2-({[(2S)-azetidinium-2-ylcarbonyl]amino}methyl)-4-chlorophenyl]-4H-tetraazol-1-ium dichloride
Through a solution of tert-butyl (2S)-2-({[5-chloro-2-(1H-tetraazol-1-yl)benzyl]amino}carbonyl)azetidine-1-carboxylate (467 mg, 1.19 mmol) in EtOAc (24.0 mmol) at 0° C. was bubbled HCl (g) for 10 min. The solvent was removed in vacuo to give the title compound as a yellow solid. LCMS (M+H): 293.0. 1H NMR (CD3OD, 400 MHz): δ 9.57 (s, 1 H), 7.72–7.70 (m, 1 H), 7.64–7.59 (m, 1 H), 7.54–7.52 (m, 1 H), 4.96–4.92 (m, 1 H), 4.34–4.21 (m, 2 H), 4.13–4.06 (m, 1 H), 3.97–3.90 (m, 1 H), 2.81–2.75 (m, 1 H), 2.51–2.45 (m, 1 H).

reactant | tert-butyl (2S)-2-({[5-chloro-2-(1H-tetraazol-1-yl)benzyl]amino}carbonyl)azetidine-1-carboxylate | 1.19 mmol, 467 mg | ClC=1C=CC(=C(CNC(=O)[C@H]2N(CC2)C(=O)OC(C)(C)C)C1)N1N=NN=C1 | C17H21ClN6O3
reactant | EtOAc | 24.0 mmol | CCOC(=O)C | C4H8O2
reactant | HCl | Cl | ClH
product | 4-[2-({[(2S)-azetidinium-2-ylcarbonyl]amino}methyl)-4-chlorophenyl]-4H-tetraazol-1-ium dichloride | [Cl-].[Cl-].[NH2+]1[C@@H](CC1)C(=O)NCC1=C(C=CC(=C1)Cl)N1N=N[NH+]=C1 | InChI=1S/C12H13ClN6O.2ClH/c13-9-1-2-11(19-7-16-17-18-19)8(5-9)6-15-12(20)10-3-4-14-10;;/h1-2,5,7,10,14H,3-4,6H2,(H,15,20);2*1H/t10-;;/m0../s1
